US06329389B1
Ethyl 3-(2-nitrobenzyl)-2-oxo-1-propyl-3-piperidinecarboxylate
Sodium hydride (60% dispersion in oil, 1.59 g) was added to a DMF solution (100 ml) of ethyl 3-(2-nitrobenzyl)-2-oxo-3-piperidinecarboxylate (11.0 g) and propyl iodide (5.79 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water and extracted with a mixture of ethyl acetate and diethyl ether. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4 to 1/2) to obtain the entitled compound (10.6 g).

reactant | Sodium hydride | 1.59 g | [H-].[Na+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | ethyl 3-(2-nitrobenzyl)-2-oxo-3-piperidinecarboxylate | 11.0 g | [N+](=O)([O-])C1=C(CC2(C(NCCC2)=O)C(=O)OCC)C=CC=C1 | C15H18N2O5
reactant | propyl iodide | 5.79 ml | C(CC)I | C3H7I
solvent | water | O | H2O
product | Ethyl 3-(2-nitrobenzyl)-2-oxo-1-propyl-3-piperidinecarboxylate | 10.6 g | [N+](=O)([O-])C1=C(CC2(C(N(CCC2)CCC)=O)C(=O)OCC)C=CC=C1 | C18H24N2O5
